US07060844B2
A solution of 3-(5-Amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one (75 mg, 0.251 mmol), trityl chloride (84 mg, 0.301 mmol) and triethylamine (53 μμl, 0.377 mmol) in DMF (2.0 ml) was stirred at room temperature for 1.25 hours. The mixture was partitioned between EtOAc and water. The EtOAc layer was washed with brine, dried with Na2SO4 and rotary evaporated. The yellow solid was precipitated from CHCl3 to give 5-chloro-3-[5-(trityl-amino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one as a bright yellow solid (61 mg, 45%).

reactant | 3-(5-Amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one | 0.251 mmol, 75 mg | NC=1C=C2COC(C2=CC1)=C1C(NC2=CC=C(C=C12)Cl)=O | C16H11ClN2O2
reactant | trityl chloride | 0.301 mmol, 84 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 0.377 mmol | C(C)N(CC)CC | C6H15N
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | 5-chloro-3-[5-(trityl-amino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 61 mg, 45% | ClC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=CC(=CC=C12)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H25ClN2O2
